US04212875
A mixture of 1,8-diaminooctane (14.1 g) with N-cyano-N'-methyl-S-methyl isothiourea (5.2 g) was maintained at 60° for 5 hours to give a solid product which was washed with ether and recrystallised from acetonitrile/ether to give N-cyano-N'-methyl-N"-(8-aminooctyl)guanidine (5.3 g) m.p. 81°-83°.

reactant | 1,8-diaminooctane | 14.1 g | NCCCCCCCCN | C8H20N2
reactant | N-cyano-N'-methyl-S-methyl isothiourea | 5.2 g | C(#N)NC(SC)=NC | C4H7N3S
product | N-cyano-N'-methyl-N"-(8-aminooctyl)guanidine | 5.3 g | C(#N)NC(=NCCCCCCCCN)NC | C11H23N5
